US20010029239A1
A mixture of methyl 2-(4-bromomethyl-2-tert-butoxycarbonyl-3-methylphenoxy)-3-methoxypropenoate (65mg), sodium acetate (14 mg) and N,N-dimethylacetamide was stirred at 70° C. for 5 hours, cooled and diluted with ether and water. The organic phase was washed (water), dried (magnesium sulphate) and evaporated to give methyl 2-(4-acetoxymethyl-2-tert-butoxycarbonyl-3-methylphenoxy)-3-methoxypropenoate (65mg).

reactant | methyl 2-(4-bromomethyl-2-tert-butoxycarbonyl-3-methylphenoxy)-3-methoxypropenoate | 65mg | BrCC1=C(C(=C(OC(C(=O)OC)=COC)C=C1)C(=O)OC(C)(C)C)C | C18H23BrO6
reactant | sodium acetate | 14 mg | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 2-(4-acetoxymethyl-2-tert-butoxycarbonyl-3-methylphenoxy)-3-methoxypropenoate | 65mg | C(C)(=O)OCC1=C(C(=C(OC(C(=O)OC)=COC)C=C1)C(=O)OC(C)(C)C)C | C20H26O8
